US04438034
The following Examples were prepared by reacting caprolactam, ethylbromide, and magnesium in tetrahydrofuran to form caprolactam magnesium bromide.

reactant | caprolactam | C1(CCCCCN1)=O | C6H11NO
reactant | ethylbromide | C(C)Br | C2H5Br
reactant | magnesium | [Mg] | Mg
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | caprolactam magnesium bromide | [Br-].[Mg+2].C1(CCCCCN1)=O.[Br-] | InChI=1S/C6H11NO.2BrH.Mg/c8-6-4-2-1-3-5-7-6;;;/h1-5H2,(H,7,8);2*1H;/q;;;+2/p-2
